Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___
 
Chief Complaint:
progressive muscle weakness
 
Major Surgical or Invasive Procedure:
EMG
 
History of Present Illness:
Mr. ___ is a ___ gentleman left-handed with a 
history of akinetic rigid parkinsonism who is followed in the 
movement disorder clinic here at ___ by Dr. ___. 
 He was sent in from clinic today regarding progressive weakness 
particularly in his upper extremities, and falls since ___. 


Briefly, the patient was last seen in clinic in ___
By Dr. ___.  At that time, his nortriptyline was weaned 
off as it was thought that this was affecting his cognition and 
mood.  He was also referred to the sleep clinic to help with REM 
behavior sleep disorder.  Otherwise from a motor standpoint he 
was doing well.  In ___, the patient was standing in his 
kitchen around lunchtime when suddenly he felt very rigid as if 
he froze.  He then attempted to back away from the kitchen and 
turned around and suddenly his right leg got caught under his 
left leg and he fell down onto his right side.  His wife heard a 
very large crash sound from upstairs and heard him yelling.  She 
immediately came to his assistance.  There was no loss of 
consciousness, however the patient is unsure if he strained his 
neck or hit his head.  This was unusual as typically the patient 
does not fall from his ___.  After the fall, the patient 
was able to get up and ambulate on his own.  He did not feel 
sore in any particular area for the rest of the day.  About a 
week later, the patient states that he was in his backyard 
cleaning 1 of his tractors 1 he was walking over to a bucket and 
suddenly felt like he lost his balance and hit his head on the 
bucket sustaining a large cut on his forehead. 

Since that time, the patient started to slowly notice 
progressive weakness particularly in his upper extremities at 
first.  For instance while taking a shower he found it difficult 
to lift his arms up to wash his hair.  He then started to find 
it difficult to button his shirts and get dressed.  Over the 
course of the past 2 months he found it difficult to make 
sandwiches for himself, and just these past few weeks he is on 
been unable to open any lids or jars because of weakness in his 
fingers.  The patient describes weakness in his shoulders arms 
hands and fingers and it is difficult for him to coordinate 
movements because he feels like his sensation is also off.  

In regards to falls, the patient has had ___ecause he feels like his legs are about to give out from time 
to time and he loses his balance more easily than before. 

At first, there is a question whether his falls and were 
weakness were due to his parkinsonism.  His Sinemet doses were 
adjusted to see if these changes would help with his symptoms. 
He crrently is taking sinemet 7 times a day at 5 AM, 7:30pm, 
10am, 12:30pm, 3pm, 5:30pm, 8pm, and 10:30 pm for an interval of 
2.5 hours which is doing well for the patient. 

In regards to his weakness, it does not fluctuate or get better 
with medications or at particular times of the day. It is 
constant and is progressively getting worse. He describes that 
the weakness "seems to worsen on a daily basis".  

He denies any other acute issues. 

On neuro ROS, the pt denies headache, loss of vision, blurred 
vision, diplopia, dysarthria, dysphagia, lightheadedness, 
vertigo, tinnitus or hearing difficulty. Denies difficulties 
producing or comprehending speech.   No bowel or bladder 
incontinence or retention. 

On general review of systems, the pt denies recent fever or 
chills.  No night sweats or recent weight loss or gain. Denies 
cough, shortness of breath.  Denies chest pain or tightness, 
palpitations.  Denies nausea, vomiting, diarrhea, constipation 
or abdominal pain.  No recent change in bowel or bladder habits. 
 No dysuria.  Denies arthralgias or myalgias. Denies rash.

 
Past Medical History:
1. hypercholesterolemia 
2. hypertension 
3. BPH 
4. Low back pain s/p laminectomy at ___ in ___ 

 
Social History:
___
Family History:
His mother died at age ___ from heart disease and
so did his father at age ___.  He has six brothers, three of 
which
are lefties.  Positive for epilepsy in an older brother. 
Negative for tremor, ___ disease, dementia and learning
difficulties.

 
Physical Exam:
EXAM ON ADMISSION:
=================

Physical Temp 98.0, BP 1120/68, RR 16, 100% on RA 
General: awake, cooperative, NAD. 
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in 
oropharynx
Neck: supple, no nuchal rigidity
Pulmonary: breathing comfortably on room air
Cardiac: RRR, nl
Abdomen: soft, NT/ND
Extremities: warm, well perfused
Skin: some telengectasias on the face and chest 

Neurologic:

-Mental Status: Alert, oriented x self, location, and could 
identify month and year but not specific date. Able to relate 
history without significant difficulty, sometimes tangential. 
Attentive, able to name ___ backward without difficulty. 
Language is fluent with intact repetition and comprehension. 
Normal prosody. There were no paraphasic errors. Pt was able to 
name both high and low frequency objects.  Able to read without 
difficulty. Speech was not dysarthric. Able to follow both 
midline and appendicular commands. Pt was able to register 3 
objects and recall ___ at 5 minutes. There was no evidence of 
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without 
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic 
exam revealed no papilledema, exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift 
bilaterally.

  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  4    5   4+  4   4+  ___   5    5  5     5     4+  4
R  4-   ___-  4-  ___   5    5  5     5     4   4

-Sensory: Decreased pinprick from R shoulder (C3) down involving 
entire arm by about 50-80% compared to normal. He also does not 
feel pin prick across his thorax at T3-T4 then his sensation 
resumes. Decreased pin prick L5-S1 on the R

-DTRs:
  Bi Tri ___ Pat Ach
L  3  3    3    2   0
R  3  3    3    2   0
Plantar response was equivocal bilaterally. 

-Coordination: No intention tremor, no dysdiadochokinesia noted. 
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm 
swing.  Able to walk in tandem without difficulty. Romberg 
absent.

EXAM ON DISCHARGE:
- unchanged
 
Pertinent Results:
___ 07:50AM BLOOD WBC-8.0 RBC-4.75 Hgb-14.5 Hct-43.4 MCV-91 
MCH-30.5 MCHC-33.4 RDW-12.5 RDWSD-41.4 Plt ___
___ 06:55AM BLOOD WBC-6.9 RBC-4.46* Hgb-13.5* Hct-40.8 
MCV-92 MCH-30.3 MCHC-33.1 RDW-12.5 RDWSD-41.8 Plt ___
___ 06:55AM BLOOD Neuts-67.1 Lymphs-18.0* Monos-8.0 Eos-5.5 
Baso-0.7 Im ___ AbsNeut-4.61 AbsLymp-1.24 AbsMono-0.55 
AbsEos-0.38 AbsBaso-0.05
___ 01:40PM BLOOD Neuts-62.6 ___ Monos-8.8 Eos-6.5 
Baso-0.6 Im ___ AbsNeut-4.82 AbsLymp-1.61 AbsMono-0.68 
AbsEos-0.50 AbsBaso-0.05
___ 07:50AM BLOOD Plt ___
___ 07:50AM BLOOD Glucose-94 UreaN-21* Creat-0.8 Na-140 
K-4.7 Cl-102 HCO3-23 AnGap-15
___ 06:55AM BLOOD Glucose-92 UreaN-17 Creat-0.8 Na-139 
K-4.4 Cl-103 HCO3-26 AnGap-10
___ 07:50AM BLOOD ALT-15 AST-27 CK(CPK)-276
___ 06:55AM BLOOD CK(CPK)-336*
___ 07:50AM BLOOD Calcium-9.4 Phos-3.5 Mg-2.3
___ 07:50AM BLOOD TSH-2.5
___ 07:50AM BLOOD Free T4-1.3
___ 06:55AM BLOOD CRP-5.4*
___ 01:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:46PM BLOOD K-4.7
___ 09:48AM BLOOD SED RATE-Test 

IMAGES:
======
MRI C/T/L-spine: 
1. Postsurgical changes relating to L4-L5 laminectomies 
2. No evidence of cord compression. 
3. Degenerative changes of the lumbar spine most significant at 
L4-5 and L5-S1 where there is moderate to severe neural 
foraminal narrowing as described above. 
4. Degenerative changes of the cervical spine most significant 
at C4-C5 where  disc bulging causes mild spinal canal narrowing 
and mild remodeling of the  right anterolateral aspect of the 
cord without evidence of abnormal cord signal. 
5. Mild degenerative changes of the thoracic spine. 

MRI Head with and without contrast:
1. No acute intracranial abnormality 
2. A couple small old left caudate head lacunar infarcts. 
3. Minimal small vessel disease. 
4. Extensive paranasal sinus inflammatory changes as described 
above.  
Consider obtaining a nonurgent CT sinus study for better 
characterization. 

EMG: 
===
Results consistent with ALS, final report pending.

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman who was admitted for 
workup of three months of progressive upper extremity weakness 
to the point that the patient cannot lift up his arms or open 
any jars, gait instability and falls.

His neurologic examination on admission was notable for 
significant upper extremity weakness right greater than left 
weakness in the supraspinatus, deltoids, biceps, triceps, wrist 
extensors, finger extensors and flexors. He also had prominent 
fasiculations in the upper extremities, as well as diffuse 
hyperreflexia. 

Diagnostic workup was notable for MRI Brain, Cervical and 
Thoracic spine which were unremarkable for cord abnormality. He 
underwent an EMG that was consistent with a diagnosis of 
amyotrophic lateral sclerosis. 

Transitional Issues:
- start Riluzole 50mg BID
- trend liver function enzymes (normal on admission) 
- get baseline pulmonary function tests
- CT torso to rule out possibility of paraneoplastic etiology 
(low suspicion)
- video swallow test as outpatient setting
- follow-up with ___ Neurology, ___ Neuromuscular/ALS group, 
___ Neurology as indicated
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbidopa-Levodopa (___) ODT 1 TAB PO 7XDAY 
2. Cetirizine 10 mg PO DAILY 
3. ENTAcapone 200 mg PO X7 PER DAY 
4. Furosemide 20 mg PO DAILY:PRN swelling 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Lisinopril 10 mg PO DAILY 
7. Nortriptyline 10 mg PO QHS 
8. Pramipexole 0.25 mg PO QHS 
9. Pravastatin 40 mg PO QPM 
10. Tamsulosin 0.4 mg PO QHS 

 
Discharge Medications:
1.  riluzole 50 mg oral BID 
RX *riluzole [Rilutek] 50 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*1 
2.  Carbidopa-Levodopa (___) 2 TAB PO X7 TIMES PER DAY  
3.  ENTAcapone 200 mg PO X7 TIMES PER DAY   
4.  Cetirizine 10 mg PO DAILY  
5.  Fluticasone Propionate NASAL 1 SPRY NU DAILY  
6.  Furosemide 20 mg PO DAILY:PRN swelling  
7.  Lisinopril 10 mg PO DAILY  
8.  Nortriptyline 10 mg PO QHS  
9.  Pramipexole 0.25 mg PO QHS  
10.  Pravastatin 40 mg PO QPM  
11.  Tamsulosin 0.4 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
___ Disease 
Amyotrophic Lateral Sclerosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital for management of your 
muscular weakness and rigidity. On hospital admission, you 
underwent an EMG, which showed signs that are consistent 
amyotrophic lateral sclerosis.

You were discharged home on a new medication: Riluzole. 

Please continue to follow-up with your outpatient Neurologist 
Dr. ___ and with your neurologist at the ___. 

You will need routine blood work on this medication.

We also scheduled you for routine imaging of your chest, 
abdomen, and pelvis. You will have a routine pulmonary function 
test and a routine swallow exam to be performed in the 
outpatient setting.

You will follow-up with Dr. ___, as well as the 
Neuromuscular Group at ___, in addition to routine follow-up 
with your Neurologist at the ___.

Thank you for allowing us to participate in your care.

___ Neurology
 
Followup Instructions:
___